US07119107B2
Condensation of t-butyl N-[(1S)-2-(4-fluorophenyl)-1-methyl-2-oxoethyl]carbamate with (R)-(+)-2-methyl-2-propanesulfinamide in the presence of a dehydrating agent gave t-butyl N-[(1S)-2-[((R)-t-butylsulfinyl)imino]-2-(4-fluorophenyl)-1-methylethyl]carbamate. To a solution of the sulfinylimine compound (80 mg) in toluene (2 mL) was added 1.0M trimethylaluminum/hexane solution (0.43 mL) at −78° C., followed by stirring for 5 minutes. The resulting solution was gradually added dropwise at −78° C. to a solution of 2-fluoro-4-pyridyllithium, which had been prepared by reacting 4-fluoro-2-bromopyridine (114 mg) with 1.56M butyllithium/hexane solution (0.46 mL) in diethyl ether (3 mL) at −78° C. After completion of the dropping, tetrahydrofuran (3 mL) was added to the reaction mixture, followed by stirring at −78° C. for 2.5 hours. Saturated brine was added to the reaction mixture and the temperature was elevated to room temperature. The reaction solution was filtered through a Celite pad, and the organic layer in the filtrate was dried over anhydrous magnesium sulfate. After removal of the magnesium sulfate by filtration, the organic solvent was evaporated off in vacuo. The residue was purified by column chromatography on silica gel (C-300; hexane:ethyl acetate=2:1) to give t-butyl N-[(1S,2S)-2-[(t-butylsulfinyl)amino]-2-(4-fluorophenyl)-2-(2-fluoro-4-pyridyl)-1-methylethyl]carbamate (49 mg). The product was treated with 4N hydrogen chloride/dioxane solution to give the optically active diamine indicated in the title.

reactant | t-butyl N-[(1S)-2-(4-fluorophenyl)-1-methyl-2-oxoethyl]carbamate | FC1=CC=C(C=C1)C([C@H](C)NC(OC(C)(C)C)=O)=O | C14H18FNO3
reactant | (R)-(+)-2-methyl-2-propanesulfinamide | CC(C)(C)[S@@](=O)N | C4H11NOS
product | t-butyl N-[(1S)-2-[((R)-t-butylsulfinyl)imino]-2-(4-fluorophenyl)-1-methylethyl]carbamate | C(C)(C)(C)[S@@](=O)N=C([C@H](C)NC(OC(C)(C)C)=O)C1=CC=C(C=C1)F | C18H27FN2O3S
